US05750531
Synthesis of 6-ethyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.46 ml, 4.25 mmol) was added to a mixture solution of 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.61 g, 2.12 mmol) and dimethylformamide(5 ml), 0.50 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 4.25 mmol, 0.46 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.12 mmol, 0.61 g | C(C)C1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.50 g, Yield: 60% | Cl.C(C)C1=CC(=NC(=N1)N(C)C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C23H26N4.ClH/c1-4-19-16-22(25-23(24-19)26(3)20-11-6-5-7-12-20)27-15-14-18-10-8-9-13-21(18)17(27)2;/h5-13,16-17H,4,14-15H2,1-3H3;1H
